US05864039
N-(5-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)pentyl)-1-methyl-1 H-indole-3-carboxamide (0.89 g) as starting compound was reacted and treated in the same manner as in Example 67 using 4-amino-5-chloro-2-methoxybenzoic acid (0.42 g) to give N-(5-(3-(4-amino-5-chloro-2-methoxybenzoylaminomethyl)pyrrolidin-1-yl)pentyl)-1-methyl-1 H-indole-3-carboxamide.

reactant | N-(5-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)pentyl)-1-methyl-1 H-indole-3-carboxamide | 0.89 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCCCNC(=O)C1=CN(C2=CC=CC=C12)C | C25H38N4O3
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.42 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | N-(5-(3-(4-amino-5-chloro-2-methoxybenzoylaminomethyl)pyrrolidin-1-yl)pentyl)-1-methyl-1 H-indole-3-carboxamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCCCCNC(=O)C2=CN(C3=CC=CC=C23)C)C=C1Cl)OC | C28H36ClN5O3
